US07932262B2
To the solution of 4-(8-formylquinazolin-2-ylamino)benzenesulfonamide (11 mg, 30 umole) and 2-methoxy-N-methylethanamine (37 ul, 30 umole) in 500 ul of NMP was added a few drops of acetic acid. The reaction solution was stirred at room temperature for overnight. Sodium triacetoxy borohydride (7 mg, 33 umole) was added. The reaction mixture was stirred for 2 hr at ambient temperature. The reductive amination went to completion to give 4-(8-(((2-methoxyethyl)(methyl)amino)methyl)quinazolin-2-ylamino)benzenesulfonamide that was then purified on prep HPLC to give product as powder. ES/MS m/z 402.2 (MH+).

reactant | 4-(8-formylquinazolin-2-ylamino)benzenesulfonamide | 30 umole, 11 mg | C(=O)C=1C=CC=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N | C15H12N4O3S
reactant | 2-methoxy-N-methylethanamine | 30 umole, 37 ul | COCCNC | C4H11NO
reactant | Sodium triacetoxy borohydride | 33 umole, 7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NMP | 500 ul | CN1CCCC1=O | C5H9NO
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-(8-(((2-methoxyethyl)(methyl)amino)methyl)quinazolin-2-ylamino)benzenesulfonamide | COCCN(C)CC=1C=CC=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N | C19H23N5O3S
